US07569225B2
II. Synthesis of N-Fluorenylmethoxycarbonyl-S-(2,3-dihydroxypropyl)cysteine (Fmoc-Dhc-OH):
S-(2,3-dihydroxypropyl)cysteine (2.45 g, 12.6 mmole) was dissolved in 9% sodium carbonate (20 ml). A solution of fluorenylmethoxycarbonyl-N-hydroxysuccinimide (3.45 g, 10.5 mmole) in acetonitrile (20 ml) was added and the mixture stirred for 2 h, then diluted with water (240 ml), and extracted with diethyl ether (25 ml×3). The aqueous phase was acidified to pH 2 with concentrated hydrochloric acid and was then extracted with ethyl acetate (70 ml×3). The extract was washed with water (50 ml×2) and saturated sodium chloride solution (50 ml×2), dried over sodium sulfate and evaporated to dryness. Recrystalisation from ether and ethyl acetate at −20° C. yielded a colourless powder (2.8 g, 6.7 mmole, 63.8%).

reactant | S-(2,3-dihydroxypropyl)cysteine | 12.6 mmole, 2.45 g | OC(CSC[C@H](N)C(=O)O)CO | C6H13NO4S
reactant | fluorenylmethoxycarbonyl-N-hydroxysuccinimide | 10.5 mmole, 3.45 g | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)C1C(=O)N(C(C1)=O)O | C19H15NO5
solvent | sodium carbonate | 20 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
solvent | water | 240 ml | O | H2O
product | N-Fluorenylmethoxycarbonyl-S-(2,3-dihydroxypropyl)cysteine | 6.7 mmole, 2.8 g, 63.8% | C1(=CC=CC=2C3=CC=CC=C3CC12)COC(=O)N[C@@H](CSCC(CO)O)C(=O)O | C21H23NO6S
